US04666931
A mixture of 2-acetyl-4-(N-carboxymethylsulfamoyl)-7-methoxybenzofuran and AlCl3 in chlorobenzene was heated at 130° C. to give 2-acetyl-4-(N-carboxymethylsulfamoyl)-7-hydroxybenzofuran.

reactant | 2-acetyl-4-(N-carboxymethylsulfamoyl)-7-methoxybenzofuran | C(C)(=O)C=1OC2=C(C1)C(=CC=C2OC)S(NCC(=O)O)(=O)=O | C13H13NO7S
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2-acetyl-4-(N-carboxymethylsulfamoyl)-7-hydroxybenzofuran | C(C)(=O)C=1OC2=C(C1)C(=CC=C2O)S(NCC(=O)O)(=O)=O | C12H11NO7S
